US07943669B2
Step B: {4-[3-(2-Ethyl-butoxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid
{4-[3-(2-Ethyl-butoxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester (210 mg; 0.40 mmol) was dissolved in ethanol (10 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 16 h. acidified with 1 N aqueous hydrochloric acid and extracted with ethyl acetate. The organic phase was dried and evaporated to dryness and purified by prep HPLC (method B). Yield: 144 mg (73%). HPLC-MS: m/z: 498.2 (M+H)+; Rt: 1.97 min.

reactant | {4-[3-(2-Ethyl-butoxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester | 0.40 mmol, 210 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC(CC)CC)C)=O | C30H39NO5S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | {4-[3-(2-Ethyl-butoxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid | C(C)C(COC=1C=C(C=C(C1)C#CCN1CCOCC1)SC1=CC(=C(OCC(=O)O)C=C1)C)CC | C28H35NO5S
